US08258134B2
2-(2-Ethyl-butyl)-malonic acid (3.55 g, 18.8 mmol) was heated at 195° C. for 2 h. After this time, the solution was cooled to 25° C. and diluted with a 90/10 methylene chloride/methanol solution. The organics were then washed with a saturated aqueous sodium chloride solution, concentrated in vacuo and azeotroped with acetonitrile (2×50 mL) to afford 4-ethyl-hexanoic acid (1.24 mg, 45%) as yellow oil, which was used without further purification; EI+-HRMS m/e calcd for C8H16O2 [M−H]+ 143.1072, found 143.1074. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.81 (t, J=7.2 Hz, 6H) 1.02-1.35 (m, 5H) 1.32-1.59 (m, 2H) 2.16 (t, J=7.8 Hz, 2H) 11.98 (br. s., 1H).

reactant | 2-(2-Ethyl-butyl)-malonic acid | 18.8 mmol, 3.55 g | C(C)C(CC(C(=O)O)C(=O)O)CC | C9H16O4
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 4-ethyl-hexanoic acid | 1.24 mg, 45% | C(C)C(CCC(=O)O)CC | C8H16O2
